Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
[CH3:1][C:2](=[O:3])[NH:4][C@H:5]([C:6](=[O:7])[NH:8][C@H:9]([C:10](=[O:11])[NH:12][CH:13]([CH2:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[CH:21]([OH:22])[CH:23]([CH2:24][c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[NH:31][C:32](=[O:33])[C@@H:34]([NH:35][C:36](=[O:37])[C@@H:38]([NH:39][C:40]([CH3:41])=[O:42])[CH:43]([CH3:44])[CH3:45])[CH:46]([CH3:47])[CH3:48])[CH:49]([CH3:50])[CH3:51])[CH:52]([CH3:54])[CH3:53]>>[CH3:1][C:2](=[O:3])[NH:4][C@H:5]([C:6](=[O:7])[NH:8][C@H:9]([C:10](=[O:11])[NH:12][CH:13]([CH2:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[C:21](=[O:22])[CH:23]([CH2:24][c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[NH:31][C:32](=[O:33])[C@@H:34]([NH:35][C:36](=[O:37])[C@@H:38]([NH:39][C:40]([CH3:41])=[O:42])[CH:43]([CH3:44])[CH3:45])[CH:46]([CH3:47])[CH3:48])[CH:49]([CH3:50])[CH3:51])[CH:52]([CH3:53])[CH3:54],[CH3:1][C:2](=[O:3])[NH:4][C@H:5]([C:6](=[O:7])[NH:8][C@H:9]([C:10](=[O:11])[NH:12][CH:13]([CH2:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[CH:21]([OH:22])[CH:23]([CH2:24][c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[NH:31][C:32](=[O:33])[C@@H:34]([NH:35][C:36](=[O:37])[C@@H:38]([NH:39][C:40]([CH3:41])=[O:42])[CH:43]([CH3:44])[CH3:45])[CH:46]([CH3:47])[CH3:48])[CH:49]([CH3:50])[CH3:51])[CH:52]([CH3:53])[CH3:54].O[Cr:301]([OH:302])(=[O:303])=O>>[CH3:1][C:2](=[O:3])[NH:4][C@H:5]([C:6](=[O:7])[NH:8][C@H:9]([C:10](=[O:11])[NH:12][CH:13]([CH2:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[C:21](=[O:22])[CH:23]([CH2:24][c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[NH:31][C:32](=[O:33])[C@@H:34]([NH:35][C:36](=[O:37])[C@@H:38]([NH:39][C:40]([CH3:41])=[O:42])[CH:43]([CH3:44])[CH3:45])[CH:46]([CH3:47])[CH3:48])[CH:49]([CH3:50])[CH3:51])[CH:52]([CH3:53])[CH3:54],Jones_oxidation,"[(22, 301), ([301, 303], 303), (303, [303, 301]), ([301, 302], 22.1), ([22.1, 22], 22), ([301, 303], 21.1), ([21.1, 21], [21, 22]), ([22, 301], 301)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
I[CH2:1][CH2:2][CH3:3].[CH3:4][CH2:5][O:6][C:7](=[O:8])[c:9]1[o:10][c:11]2[cH:12][cH:13][c:14]([N+:15](=[O:16])[O-:17])[cH:18][c:19]2[c:20]1[OH:21]>>[CH2:1]([CH2:2][CH3:3])[O:21][c:20]1[c:9]([C:7]([O:6][CH2:5][CH3:4])=[O:8])[o:10][c:11]2[cH:12][cH:13][c:14]([N+:15](=[O:16])[O-:17])[cH:18][c:19]12,[CH3:4][CH2:5][O:6][C:7](=[O:8])[c:9]1[o:10][c:11]2[cH:12][cH:13][c:14]([N+:15](=[O:16])[OH:17])[cH:18][c:19]2[c:20]1[OH:21].[I:101][CH2:1][CH2:2][CH3:3].[H-:301].[Na+]>>[CH2:1]([CH2:2][CH3:3])[O:21][c:20]1[c:9]([C:7]([O:6][CH2:5][CH3:4])=[O:8])[o:10][c:11]2[cH:12][cH:13][c:14]([N+:15](=[O:16])[OH:17])[cH:18][c:19]12,SN2_alcohol(thiol),"[(301, 21.1), ([21.1, 21], 21), (21, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1](=[O:2])[CH2:3][CH2:4][Br:5].[CH3:6][CH2:7][C:8](=[O:9])[NH:10][CH:11]1[CH2:12][CH2:13][N:14]([c:15]2[cH:16][cH:17][c:18]([NH2:19])[cH:20][cH:21]2)[CH2:22][CH2:23]1>>[C:1](=[O:2])([CH2:3][CH2:4][Br:5])[NH:19][c:18]1[cH:17][cH:16][c:15]([N:14]2[CH2:13][CH2:12][CH:11]([NH:10][C:8]([CH2:7][CH3:6])=[O:9])[CH2:23][CH2:22]2)[cH:21][cH:20]1,[CH3:6][CH2:7][C:8](=[O:9])[NH:10][CH:11]1[CH2:12][CH2:13][N:14]([c:15]2[cH:16][cH:17][c:18]([NH2:19])[cH:20][cH:21]2)[CH2:22][CH2:23]1.[Cl:101][C:1](=[O:2])[CH2:3][CH2:4][Br:5]>>[C:1](=[O:2])([CH2:3][CH2:4][Br:5])[NH:19][c:18]1[cH:17][cH:16][c:15]([N:14]2[CH2:13][CH2:12][CH:11]([NH:10][C:8]([CH2:7][CH3:6])=[O:9])[CH2:23][CH2:22]2)[cH:21][cH:20]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(19, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])OC(OC(C)(C)C)=O.[CH3:8][S:9][C:10](=[NH:11])[NH2:12]>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[NH:12][C:10]([S:9][CH3:8])=[NH:11],CC(C)(C)[O:202][C:201](=O)[O:101][C:6]([O:5][C:2]([CH3:1])([CH3:3])[CH3:4])=[O:7].[CH3:8][S:9][C:10](=[NH:11])[NH2:12]>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[NH:12][C:10]([S:9][CH3:8])=[NH:11],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(12, 6), ([6, 7], 7), (7, [7, 6]), ([6, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][c:2]1[cH:3][cH:4][cH:5][s:6]1.[O:7]=[C:8]1[CH2:9][S:10][C:11](=[O:12])[NH:13]1>>[CH:1]([c:2]1[cH:3][cH:4][cH:5][s:6]1)=[C:9]1[C:8](=[O:7])[NH:13][C:11](=[O:12])[S:10]1,[O:101]=[CH:1][c:2]1[cH:3][cH:4][cH:5][s:6]1.[O:7]=[C:8]1[CH2:9][S:10][C:11](=[O:12])[NH:13]1.[OH-:301]>>[CH:1]([c:2]1[cH:3][cH:4][cH:5][s:6]1)=[C:9]1[C:8](=[O:7])[NH:13][C:11](=[O:12])[S:10]1,aldol_condensation,"[(301, 9.1), ([9.1, 9], [9, 8]), ([8, 7], 7), (7, [7, 8]), ([8, 9], 1), ([1, 101], 101), (101, 301.1), ([301.1, 301], 301), (301, 9.1), ([9.1, 9], [9, 8]), ([8, 7], 7), (7, [7, 8]), ([8, 9], [9, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
